US08247611B2
The same procedure as in Example 13 was repeated except for using the catalyst (K) produced in Preparation Example 10 in place of the catalyst (G), flowing ammonia and hydrogen through the autoclave at rates of 13.1 g (0.77 mol)/h and 4.3 L (0.19 mol)/h, respectively, thereby conducting the reaction for 6 h. The resultant reaction product was analyzed in the same manner as in Example 7. As a result, it was confirmed that the conversion of the raw alcohol was 65.5%, the selectivity to lauryl amine was 85.5%, the amount of dilauryl amine produced is 7.3%, and the amount of the other by-products produced was 2.2%.

reactant | ammonia | N | H3N
reactant | hydrogen | [H][H] | H2
reactant | lauryl amine | C(CCCCCCCCCCC)N | C12H27N
product | dilauryl amine | C(CCCCCCCCCCC)NCCCCCCCCCCCC | C24H51N
